Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([H:6])([H:7])([H:8])[H:10].[C:2]1([H:9])=[C:3]([H:11])[C:4]1([O:5][H:13])[H:12]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8],77.1996501258274
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]1([H:13])[C:6]([O:5][H:14])=[C:7]1[H:15])([H:11])[H:12])([H:9])[H:10])[H:8],64.048356856746
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C+:3]=[C:4]=[C-:5][N:6]1[H:10])([H:7])([H:8])[H:9],130.493786371885
[C:1]1([H:7])([H:8])[O:2]/[C:3]1=[C:4]1/[C:5]([H:11])([H:12])[O:6]1.[H:9][H:10]>>[C:1]1([H:7])([H:8])[O:2][C@:3]1([C@@:4]1([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:9],71.57542114849079
[C:1]([N:2]([C@:3]([C:4]([C:6]#[N:7])([H:13])[H:14])([O:5][H:15])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],71.84049854877136
[C:1]1([H:7])=[C:6]([H:16])[C:2]1([C:3]([C:4]([C:5]([H:8])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16],54.11867810878857
[C:1]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:7])([H:8])[H:9].[C:2]([O:3][H:11])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],58.78755862989271
[C:1]([C@@:2]1([C:5]([O:6])=[N:7])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10],3.584511177870496
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[H:8][H:9].[N:1]#[C:2][C:6](=[O:7])[H:10].[O:3]=[C:4]=[O:5],44.8451516765135
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])=[C:5]([H:15])[C@@:6]12[H:16].[H:13][H:14]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16],77.4642705224461
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:3](=[O+:4][C:5](=[O:6])[N:7]([H:15])[H:16])[H:14].[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10],78.24853645955571
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C:2]([H:9])([H:13])[O:3][C:4]([H:10])([H:11])[C@:5]1([C:6]#[N:7])[H:12],85.4721284163648
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C@:2]([C:6]#[N:7])([H:9])[O:3][C:4]([H:10])([H:11])[C:5]1([H:12])[H:13],90.3473488529042
[C:1]([O:2][C@:3]1([H:12])[O:4][O:7][C:6]([H:13])=[C:5]1[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],9.078045985520816
[C:1](=[C:2]([O:3][H:17])[C:4]([C:5]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10].[C:6]([H:8])([H:14])([H:15])[H:16]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],74.69148631273524
[C:1](=[C:2]([H:7])[H:10])([H:8])[H:9].[C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],87.6100149268119
[O:1]([C:2]1=[O+:6][C-:5]([H:12])[C:4]([H:10])([H:11])[C:3]1([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],35.0190111675957
[H:10][H:12].[N:1]1([H:7])[C@:2]2([H:8])[C@@:3]1([H:9])[C+:4][N:5]([H:11])[C-:6]2>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12],22.469960967062114
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C-:2]1=[O+:7][C@@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:4][C:3]1([H:12])[H:13].[C:1]([H:8])([H:9])([H:10])[H:11],69.18235550374919
[C:1]([O:2][C:3]([C:4]([O:5][H:14])([C:6]([H:13])([H:15])[H:16])[O:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],90.57621713572492
[C:1](/[N:7]=[C:6]1\[C:2]([H:11])([H:12])[O:3]\[C:4]1=[N:5]\[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],82.3112339035635
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[C:6])[H:11])[H:10])([H:7])([H:8])[H:9],44.518195782410004
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1](=[N+:2]1[C:3]([H:10])=[N:4][N:5][N:6]1[H:7])([H:8])[H:9],72.414462211013
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:6]([C:5](=[O:7])[H:17])([H:18])[H:19])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:20][H:21]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],76.93664527899142
